US04486359
37.5 g. of glycine are added to a hot solution of 500 ml. anhydrous methanol, 47.0 g. of triethylamine and 30.0 g. of paraformaldehyde. N,N-bis-hydroxymethyl-glycine obtained in the reaction mixture is reacted without isolation with 55.0 g. of diethyl-phosphite and the reaction mixture is boiled under stirring for 1 hour. To the obtained solution containing dialkyl-[N-(N-hydroxy-methylene-glycine)-methylene]-phosphite 210 ml. of conc. hydrochloric acid are added and the formed N-phosphonomethyl-glycine-ethyl ester is heated for 1.5 hours at 115° C. to hydrolyze it to N-phosphonomethyl-glycine. The reaction mixture is processed and thus 66-68 g. of N-phosphonomethyl-glycine are obtained in crystalline form, purity: above 96%.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | methanol | CO | CH4O
reactant | paraformaldehyde | C=O | CH2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N-bis-hydroxymethyl-glycine | OCN(CC(=O)O)CO | C4H9NO4
